US05051508
2,8-Dimethyl-3-(2-chloroethyl)-4-chloroquinoline (7.63 g, 30 mmol) and 2-methylaniline hydrochloride (4.31 g, 30 mmol) in 1-butanol (100 ml) wereheated at reflux for 4 days, then the solvent evaporated, the crude producttaken up in dichloromethane, washed with aqueous sodium bicarbonate, dried and evaporated. Chromatography (silica gel, 2% methanolic ammonia in dichloromethane) and recrystallisation from aqueous ethanol gave 1-(2-methylphenyl)-4,6-dimethyl-2,3-dihydropyrrolo-[3,2-c]quinoline (1.95 g, 23%), m.p. 126°-128°.

reactant | 2,8-Dimethyl-3-(2-chloroethyl)-4-chloroquinoline | 30 mmol, 7.63 g | CC1=NC2=C(C=CC=C2C(=C1CCCl)Cl)C | C13H13Cl2N
reactant | 2-methylaniline hydrochloride | 30 mmol, 4.31 g | Cl.CC1=C(N)C=CC=C1
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(2-methylphenyl)-4,6-dimethyl-2,3-dihydropyrrolo-[3,2-c]quinoline | 1.95 g, 23% | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)C | C20H20N2
